US07232821B2
1(a(ii)) 3-amino-5-(2-bromo-cyclopent-1-enyl)-benzoic acid methyl ester
(3-amino-5-methoxycarbonylphenyl)boronic acid (2.66 g, 13.6 mmol), Pd(0) [PPh3]4 (1.57 g, 1.36 mmol), potassium carbonate (15 g, 108 mmol) and 1,2-dibromocyclopentene (12 g, 53 mmol) in toluene-ethanol (1:1 60 mL) were stirred at 90° C., under nitrogen, for 2 hrs. Upon cooling, the reaction mixture was poured into water and extracted with ethyl acetate (40×3 mL). The combined organic layers were dried over MgSO4 and concentrated. Purification was carried out on a Biotage® using isohexane containing a gradient of ethyl acetate (0–20%) to give the required product as yellow solid (3.5 g, 87%). 1H NMR (CDCl3):1.96–2.0 (2H,m), 2.50 (2H,t,J=7.4), 2.67 (2H,t,J=7.4), 3.80 (2H,bs), 3.88 (3H,s), 7.14 (1H,s), 7.28 (1H,s), 7.59 (1H,s). LC/MS[MH+]=296, 298 Rt=3.38.

reactant | (3-amino-5-methoxycarbonylphenyl)boronic acid | 13.6 mmol, 2.66 g | NC=1C=C(C=C(C1)C(=O)OC)B(O)O | C8H10BNO4
reactant | potassium carbonate | 108 mmol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromocyclopentene | 53 mmol, 12 g | BrC1=C(CCC1)Br | C5H6Br2
reactant | water | O | H2O
solvent | toluene-ethanol | 60 mL | C=1(C(=CC=CC1)CCO)C | C9H12O
product | 3-amino-5-(2-bromo-cyclopent-1-enyl)-benzoic acid methyl ester | 3.5 g, 87% | COC(C1=CC(=CC(=C1)C1=C(CCC1)Br)N)=O | C13H14BrNO2
